US09085555B2
D. (2R,3R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-3-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2R,3R)-3-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (45.0 mg, 0.193 mmol) in CH2Cl2 (5 mL) were added successively 3-chloro-2-fluorobenzylamine (0.024 mL, 0.193 mmol), HBTU (110 mg, 0.289 mmol) and DIPEA (0.067 mL, 0.386 mmol), and stirring was continued at RT for 20 h. The reaction mixture was then diluted with CH2Cl2, and the organics were washed with 0.1N aqueous HCl (2×), aqueous NaHCO3 (2×) and brine (1×), dried (Phase separator) and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (eluent: EtOAc/c-hexane gradient 1:4 to 1:3) to afford the title compound. TLC Rf (EtOAc/c-hexane 1:1)=0.31; MS (LC/MS): 397 [M+Na]+, 319 [MH−tBu]+, 275 [MH−Boc]+; tR (HPLC conditions b): 4.37 min.

reactant | (2R,3R)-3-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.193 mmol, 45.0 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)F)C(=O)O | C10H16FNO4
reactant | 3-chloro-2-fluorobenzylamine | 0.193 mmol, 0.024 mL | ClC=1C(=C(CN)C=CC1)F | C7H7ClFN
reactant | HBTU | 0.289 mmol, 110 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.386 mmol, 0.067 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2R,3R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-3-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)F)C(NCC1=C(C(=CC=C1)Cl)F)=O | C17H21ClF2N2O3
